US06835732B2
5-Methyl-furan-2-carboxylic acid (4-methoxy-7-phenyl-benzothiazol-2-yl)-amide
Using 2-amino-4-methoxy-7-phenyl-benzothiazole and freshly prepared 5-methyl-furan-2-carboxylic acid chloride the title compound was obtained crude, which was chromatographed over SiO2 (Merck 230-400 mesh) eluting with nHexane/EtOAc (4:1), to afford the pure title compound as a pale yellow solid (67% yield), MS: m/e=364.0 (M+).

reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | 5-methyl-furan-2-carboxylic acid chloride | CC1=CC=C(O1)C(=O)Cl | C6H5ClO2
product | 5-Methyl-furan-2-carboxylic acid (4-methoxy-7-phenyl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2OC(=CC2)C)C2=CC=CC=C2 | C20H16N2O3S
